US06423713B1
The compound of Example A-170 was also synthesized in the following manner. 1-[5-(4-Chlorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]piperazine (12.2 g, 36 mmol, prepared as set forth in Example A-169), 88% formic acid (20 mL), and formaldehyde (37% formalin solution; 44 g, 540 mmol) were combined and stirred at 60° C. for 16 hours under a nitrogen atmosphere. Excess solvent was removed on the rotary evaporator and the residue was dissolved in water (150 mL). The pH was adjusted to 8-9 by addition of solid sodium bicarbonate. The resulting precipitate was filtered and air dried. It was then treated with hot methanol (400 mL), filtered and blown down to a volume of 75 mL, cooled and filtered. After drying in a vacuum oven at 80° C. overnight, there was obtained 8.75 g (68%) of 1-[5-(4-chlorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]-4-methylpiperazine, m. p. 262-264° C. Anal. Calc'd. for C19H20N5Cl: C, 64.49; H, 5.70; N, 19.79. Found: C, 64.04; H, 5.68; N, 19.63.

reactant | 1-[5-(4-Chlorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]piperazine | ClC1=CC=C(C=C1)C1=C(C(=NN1)N1CCNCC1)C1=CC=NC=C1 | C18H18ClN5
reactant | formaldehyde | 540 mmol, 44 g | C=O | CH2O
solvent | formic acid | 20 mL | C(=O)O | CH2O2
product | 1-[5-(4-chlorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]-4-methylpiperazine | 8.75 g, 68% | ClC1=CC=C(C=C1)C1=C(C(=NN1)N1CCN(CC1)C)C1=CC=NC=C1 | C19H20ClN5
